US07524840B2
A mixture of 0.10 g (0.00033 mole) of 5-(2-chlorophenyl)-7,8-difluoro-1,3-dihydro-2H-1,4-benzodiazepin-2-one (Imm), 2 mL of methanol and 0.03 g of sodium hydride was heated at 100° C. for 40 minutes using microwave heating in a sealed reaction vessel. The mixture was then cooled. diluted with ethyl acetate and washed successively with water and then brine. The mixture was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 0.103 g of 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxy-2H-1,4-benzodiazepin-2-one (Ia) as a white solid. MH+/Z=319.

reactant | 5-(2-chlorophenyl)-7,8-difluoro-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.00033 mole, 0.10 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)F)F)=O | C15H9ClF2N2O
reactant | methanol | 2 mL | CO | CH4O
reactant | sodium hydride | 0.03 g | [H-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(2-chlorophenyl)-1,3-dihydro-7-fluoro-8-methoxy-2H-1,4-benzodiazepin-2-one | 0.103 g | ClC1=C(C=CC=C1)C1=NCC(NC2=C1C=C(C(=C2)OC)F)=O | C16H12ClFN2O2
